US04051248
trans-8-[(2,3-Dihydro-1-hydroxy-5,6-dimethoxy-1H-inden-2-yl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one
8-[(2,3-Dihydro-5,6-dimethoxy-1-oxo-1H-inden-2-yl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one, hydrochloride (1:1) (20.0 g finely ground) is slurried in methanol (400 ml), cooled in ice, and treated dropwise with an excess of sodium borohydride dissolved in water (75 ml). The resulting mixture is stirred for 16 hours at room temperature. Dilution with water (400 ml), extraction with methylene chloride, and concentration of the dried methylene chloride extracts in vacuo yield the crude product. Crystallization of this material from absolute ethanol yields 13.3 g of isomerically pure title compound, melting point 189°-190° C.

reactant | 8-[(2,3-Dihydro-5,6-dimethoxy-1-oxo-1H-inden-2-yl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one, hydrochloride | Cl.COC=1C=C2CC(C(C2=CC1OC)=O)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | 400 ml | CO | CH4O
solvent | water | 75 ml | O | H2O
product | trans-8-[(2,3-Dihydro-1-hydroxy-5,6-dimethoxy-1H-inden-2-yl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | O[C@H]1[C@@H](CC2=CC(=C(C=C12)OC)OC)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C25H31N3O4
